US06509334B1
6(3-Fluoro-5-thiophen-3-yl-phenyl)-4,4-dimehtyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one
Prepared from 6-(3-bromo-5-fluoro-phenyl)-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one and 3-thiophene boronic acid according to procedure B. A brownish-orange solid: mp 200-203° C.; 1H-NMR (CDCl3) δ8.62 (s, 1H), 7.53 (q, 1H, J=1.4 Hz), 7.50 (d, 1H, J=1.5 Hz), 7.49 (d, 1H, J=2.0 Hz), 7.45-7.40 (m, 1H), 7.35 (d, 1H, J=1.8 Hz), 7.27-7.24 (m, 2H), 7.15 (dt, 1H, J=5.8, 2.0 Hz), 6.94 (d, 1H, J=8.2 Hz), 1.80 (s, 6H); MS ((−)APCI) [M−H]− @ m/z 352. Anal. Calc. For C20H16FNO2S.0.50 H2O: C, 66.28, H, 4.73, N, 3.87. Found: C, 66.54, H, 5.03, N, 3.52.

reactant | 6-(3-bromo-5-fluoro-phenyl)-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one | BrC=1C=C(C=C(C1)F)C1=CC2=C(NC(OC2(C)C)=O)C=C1 | C16H13BrFNO2
reactant | 3-thiophene boronic acid | S1C=C(C=C1)B(O)O | C4H5BO2S
solvent | H2O | O | H2O
product | 6(3-Fluoro-5-thiophen-3-yl-phenyl)-4,4-dimehtyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one | FC=1C=C(C=C(C1)C1=CSC=C1)C1=CC2=C(NC(OC2(C)C)=O)C=C1 | C20H16FNO2S
